US04448781
A solution of 4-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester (6.0 g) in concentrated hydrochloric acid (10 ml) was heated at 100° C. for 8 hours and then evaporated to give an oil which solidified on trituration with ethyl acetate. The solid was crystallised twice from aqueous acetonitrile to give 4-(1-imidazolylmethyl)phenoxyacetic acid hydrochloride (4.84 g), m.p. 107°-110° C. Found: C, 50.24, H, 5.31, N, 9.83. C12H12N2O3.HCl.H2O requires: C, 50.28, H, 5.23, N, 9.77%.

reactant | 4-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester | 6.0 g | C(C)OC(COC1=CC=C(C=C1)CC=1NC=CN1)=O | C14H16N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
product | 4-(1-imidazolylmethyl)phenoxyacetic acid hydrochloride | 4.84 g | Cl.N1C(=NC=C1)CC1=CC=C(OCC(=O)O)C=C1 | InChI=1S/C12H12N2O3.ClH/c15-12(16)8-17-10-3-1-9(2-4-10)7-11-13-5-6-14-11;/h1-6H,7-8H2,(H,13,14)(H,15,16);1H
